### PR TITLE
attempt to remove unnecessary axioms

### PR DESCRIPTION
**Pull request by HuStmpHrrr**
#51 

Please check my change carefully and see if it makes sense.

### CODE REVIEW

File: theories/Core/Semantic/PERLemmas.v [hunk 1]
```diff
@@ -183,15 +184,15 @@ Lemma per_univ_elem_left_irrel : forall i A B R A' R',
...
-  specialize (H2 a b).
-  apply propositional_extensionality; firstorder.
+  intros.
+  apply per_univ_elem_sym in H.
+  apply per_univ_elem_sym in H0.
+  destruct_all.
+  eauto using per_univ_elem_right_irrel.
 Qed.
 
+(* JH: the code below has not been fixed yet *)
```
Comment (HuStmpHrrr) [inline theories/Core/Semantic/PERLemmas.v:194]: fixes are only until this point. let's see if it makes sense first. the idea is to impose structure.

File: theories/Core/Semantic/PER.v [hunk 2]
```diff
@@ -15,6 +15,12 @@ Arguments mk_rel_mod_eval {_ _ _ _ _ _}.
 Inductive rel_mod_app (R : relation domain) f a f' a' : Prop := mk_rel_mod_app : forall fa f'a', {{ $| f & a |↘ fa }} -> {{ $| f' & a' |↘ f'a' }} -> {{ Dom fa ≈ f'a' ∈ R }} -> rel_mod_app R f a f' a'.
 Arguments mk_rel_mod_app {_ _ _ _ _}.
 
+Class IrrelevantParametrizedPER {A : Type} (IR : relation A) (OR : forall {a b}, IR a b -> relation A) : Prop := {
+    IPP_irrelevance : forall {a b} (ab ab' : IR a b), OR ab = OR ab';
```
Comment (HuStmpHrrr) [inline theories/Core/Semantic/PER.v:19]: We could relax this to an equivalence relation.

File: theories/Core/Semantic/PER.v [hunk 3]
```diff
@@ -138,6 +148,8 @@ Section Per_univ_elem_ind_def.
         (out_rel : forall {c c'} (equiv_c_c' : {{ Dom c ≈ c' ∈ in_rel }}), relation domain),
         {{ DF A ≈ A' ∈ per_univ_elem i ↘ in_rel }} ->
         motive i A A' in_rel ->
+        PER in_rel ->
+        IrrelevantParametrizedPER in_rel (@out_rel) ->
         (forall {c c'} (equiv_c_c' : {{ Dom c ≈ c' ∈ in_rel }}),
             rel_mod_eval (fun x y R => {{ DF x ≈ y ∈ per_univ_elem i ↘ R }} /\ motive i x y R) B d{{{ p ↦ c }}} B' d{{{ p' ↦ c' }}} (out_rel equiv_c_c')) ->
         (forall f f', elem_rel f f' = forall {c c'} (equiv_c_c' : {{ Dom c ≈ c' ∈ in_rel }}), rel_mod_app (out_rel equiv_c_c') f c f' c') ->
```
Comment (HuStmpHrrr) [inline theories/Core/Semantic/PER.v:155]: I am also a bit concern about the equality here. should it be just equivalence?

**Comment by HuStmpHrrr** [comment]
after thinking a bit, I think we don't even need functional extensionality, if we always use equivalence between `Prop`.

File: theories/Core/Semantic/PER.v [hunk 4]
```diff
@@ -138,6 +140,7 @@ Section Per_univ_elem_ind_def.
         (out_rel : forall {c c'} (equiv_c_c' : {{ Dom c ≈ c' ∈ in_rel }}), relation domain),
         {{ DF A ≈ A' ∈ per_univ_elem i ↘ in_rel }} ->
         motive i A A' in_rel ->
+        PER in_rel ->
```
Comment (Ailrun) [inline theories/Core/Semantic/PER.v:143]: Once `per_univ_elem_trans` on this extended definition is proved we can basically remove this argument, right? Like, by using `{{ DF A ≈ A' ∈ per_univ_elem i ↘ in_rel }}` and the symmetry&transitivity lemmas.

File: theories/Core/Semantic/PERLemmas.v (hunk 1 above)
Comment (HuStmpHrrr) [reply theories/Core/Semantic/PERLemmas.v]: done

File: theories/Core/Semantic/PER.v (hunk 2 above)
Comment (HuStmpHrrr) [reply theories/Core/Semantic/PER.v]: removed

File: theories/Core/Semantic/PER.v (hunk 4 above)
Comment (HuStmpHrrr) [reply theories/Core/Semantic/PER.v:143]: yes, this is the same as strengthening IH. we can prove a new constructor which constructs PER from symmetry and transitivity.

**Comment by HuStmpHrrr** [comment]
@Ailrun if you feel good, please go ahead and merge it. the next step is cumulativity and the corresponding lemmas for contexts and substitutions (with potential adjustments). The latter part can go in parallel with the realizability proof. I think @Antoine-something can also help get things done in par. maybe you can work out the lemmas for contexts and substitutions? realizability is a bit more difficult so it can be left for Clare.

File: theories/Core/Semantic/PERLemmas.v [hunk 5]
```diff
@@ -183,95 +191,103 @@ Lemma per_univ_elem_left_irrel : forall i A B R A' R',
...
+Lemma per_univ_elem_cross_irrel2 : forall i A B R A' R',
+    per_univ_elem i A B R ->
+    per_univ_elem i B A' R' ->
+    R = R'.
+Proof.
+  intros.
+  apply per_univ_elem_sym in H.
+  destruct_all.
+  eauto using per_univ_elem_right_irrel.
+Qed.
```
Comment (Ailrun) [inline theories/Core/Semantic/PERLemmas.v:221]: This lemma is basically with same arguments but in the reversed order to the previous lemma. We can remove this.

Comment (HuStmpHrrr) [reply theories/Core/Semantic/PERLemmas.v:221]: yeah you are right.

Comment (HuStmpHrrr) [reply theories/Core/Semantic/PERLemmas.v]: removed

File: theories/Core/Semantic/PERLemmas.v [hunk 6]
```diff
@@ -183,95 +191,103 @@ Lemma per_univ_elem_left_irrel : forall i A B R A' R',
...
+    | H1 : {{ DF ~?A ≈ ~_ ∈ per_univ_elem ?i ↘ ?R1 }},
+        H2 : {{ DF ~_ ≈ ~?A ∈ per_univ_elem ?i ↘ ?R2 }} |- _ =>
+        tryif unify R1 R2 then fail else
+          (let H := fresh "H" in assert (R1 = R2) as H by (eapply per_univ_elem_cross_irrel1; eassumption); subst;
+                                 try rewrite <- H in *)
+    | H1 : {{ DF ~_ ≈ ~?B ∈ per_univ_elem ?i ↘ ?R1 }},
+        H2 : {{ DF ~?B ≈ ~_ ∈ per_univ_elem ?i ↘ ?R2 }} |- _ =>
+        tryif unify R1 R2 then fail else
+          (let H := fresh "H" in assert (R1 = R2) as H by (eapply per_univ_elem_cross_irrel2; eassumption); subst;
+                                 try rewrite <- H in *)
```
[the remark this answers is not in the document]
Comment (HuStmpHrrr) [reply theories/Core/Semantic/PERLemmas.v:228]: removed

File: theories/Core/Semantic/PER.v (hunk 3 above)
Comment (HuStmpHrrr) [reply theories/Core/Semantic/PER.v:146]: no it shouldn't. it's fine like this. In fact, we can get rid of some use of extensionality by asking `elem_ref = fun f f' => ...`.
